US06197826B1
Synthesis of α-(2-Hydroxy-5-trifluoromethoxyphenyl)-N-tert-butylnitrone
The title compound was prepared according to the procedure described in Example 1 using 2-hydroxy-5-trifluoromethoxybenzaldehyde and N-tert-butylhydroxylamine. The title compound was isolated in 81.8% yield as a yellow crystalline solid, m.p. 82.6° C. (Rf=0.40 on a silica gel plate using 7:3 hexanes/EtOAc as an eluant).

reactant | 2-hydroxy-5-trifluoromethoxybenzaldehyde | OC1=C(C=O)C=C(C=C1)OC(F)(F)F | C8H5F3O3
reactant | N-tert-butylhydroxylamine | C(C)(C)(C)NO | C4H11NO
product | α-(2-Hydroxy-5-trifluoromethoxyphenyl)-N-tert-butylnitrone | OC1=C(C=C(C=C1)OC(F)(F)F)C=[N+]([O-])C(C)(C)C | C12H14F3NO3
